US07842694B2
4-(Azetidin-1-ylcarbonyl)-2-bromo-1,3-thiazole
To a solution of 2-bromothiazole-5-carboxylic acid (752 mg, 3.62 mmol) in DCM (10 mL) was slowly added oxalyl chloride (0.38 mL, 4.34 mmol) and then DMF (1 drop). The mixture was stirred for 4 hours, following which the organics were removed in vacuo, and the residues azeotroped with toluene (10 mL). The crude material was dissolved in DCM (10 mL) and slowly added to a stirred suspension of azetidine hydrochloride (404 mg, 4.34 mmol) and triethylamine (1.8 mL, 13 mmol) in DCM (25 mL). The mixture was stirred at RT for 2 hours before the organics were removed in vacuo. The residue was partitioned between ethyl acetate (50 mL) and water (25 mL), the organic layer washed with brine (25 mL), dried (MgSO4) and evaporated to a residue which was chromatographed on silica, eluting with 40% ethyl acetate in iso-hexane, to give the desired compound (500 mg).

reactant | 2-bromothiazole-5-carboxylic acid | 3.62 mmol, 752 mg | BrC=1SC(=CN1)C(=O)O | C4H2BrNO2S
reactant | oxalyl chloride | 4.34 mmol, 0.38 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | azetidine hydrochloride | 4.34 mmol, 404 mg | Cl.N1CCC1
reactant | triethylamine | 13 mmol, 1.8 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | 4-(Azetidin-1-ylcarbonyl)-2-bromo-1,3-thiazole | 500 mg | N1(CCC1)C(=O)C=1N=C(SC1)Br | C7H7BrN2OS
